US04197241
Hexahydro-3-(3-oxocyclohexen-1-yl)-2H-azepin-2-one
Butyllithium (143 ml of 1.4 molar solution in hexane) was added dropwise to a stirred solution of caprolactam (11.3 g) in dry tetrahydrofuran under nitrogen. After stirring for 50 minutes at 0°, 3-methoxy-2-cyclohexenone (12.6 g) in tetrahydrofuran was added. After a further 30 minutes the reaction was poured onto 5 M hydrochloric acid. The organic layer was separated and the aqueous layer was extracted with chloroform. The combined organic layers were dried over magnesium sulphate. Removal of the solvent under reduced pressure left 15 g of a yellow solid. The product was recrystallised from ethyl acetate affording 2.5 g of the title compound identical to that described in Example 17.

reactant | Butyllithium | 1.4 molar, 143 ml | C(CCC)[Li]
reactant | caprolactam | 11.3 g | C1(CCCCCN1)=O | C6H11NO
reactant | 3-methoxy-2-cyclohexenone | 12.6 g | COC1=CC(CCC1)=O | C7H10O2
reactant | hydrochloric acid | 5 M | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Hexahydro-3-(3-oxocyclohexen-1-yl)-2H-azepin-2-one | O=C1C=C(CCC1)C1C(NCCCC1)=O | C12H17NO2
